US04677098
A solution of 23.8 g of 4-nitrobutyric acid methyl ester (made in accordance with Bruson, U.S. Pat. No. 2,342,119) 39.6 g of methyl acrylate, 0.2 g triethyl amine in 200 ml of toluene is stirred and treated dropwise with 23.8 g of phenyl isocyanate. The mixture is stirred for 72 hours at room temperature and heated at 90° C. for two hours. The mixture is cooled, filtered to remove the diphyl urea, and concentrated under reduced pressure. The resulting oil is chromatographed on SiO2 (elution with hexane:ethyl-acetate; 75:25) to yield 4,5-dihydro-5-(methoxycarbonyl)-3-isoxazolepropanoic acid methyl ester as a colorless oil. NMR (CDCl3) and 4.93 (t, J=9 Hz, 1H), 3.72 (s, 3H), 3.63 (s, 3H), 3.20 (d, J-9 Hz, 2H9, 2.61 (s, 4H). IR (KBr) 2956, 2851, 1739, 1632, 1439, 1367, 1340, 1215. IR (cm-1).

reactant | 4-nitrobutyric acid methyl ester | 23.8 g | COC(CCC[N+](=O)[O-])=O | C5H9NO4
reactant | methyl acrylate | 39.6 g | C(C=C)(=O)OC | C4H6O2
reactant | triethyl amine | 0.2 g | C(C)N(CC)CC | C6H15N
reactant | phenyl isocyanate | 23.8 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 4,5-dihydro-5-(methoxycarbonyl)-3-isoxazolepropanoic acid methyl ester | COC(CCC1=NOC(C1)C(=O)OC)=O | C9H13NO5
